US07012075B2
To 2-(3-bromophenoxy)-N-(cyanomethyl)-4-methylpentanamide (1 g, 3.07 mmoles) in toluene (20 mL) was added 4-(4-{[(triisopropylsilyl)oxy]carbonyl}-1-piperazinyl)phenylboronic acid (1.25g, 3.07 mmoles) followed by solid potassium carbonate (0.85 g, 6.14 mmoles) and finally [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (250 mg, 0.31 mmoles). The reaction was stirred overnight at 80° C. and cooled to room temperature prior to taking it up in ethylacetate. The organic phase was washed three times with 1.2 N hydrochloric acid, washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by chromatography (10% EtOAc, 90% Hexanes) to give triisopropylsilyl 4-[3′-(1-{[(cyanomethyl)amino]carbonyl}-3-methylbutoxy)[1,1′-biphenyl]-4-yl]-1-piperazinecarboxylate.

reactant | 2-(3-bromophenoxy)-N-(cyanomethyl)-4-methylpentanamide | 3.07 mmoles, 1 g | BrC=1C=C(OC(C(=O)NCC#N)CC(C)C)C=CC1 | C14H17BrN2O2
reactant | 4-(4-{[(triisopropylsilyl)oxy]carbonyl}-1-piperazinyl)phenylboronic acid | 3.07 mmoles, 1.25g | C(C)(C)[Si](OC(=O)N1CCN(CC1)C1=CC=C(C=C1)B(O)O)(C(C)C)C(C)C | C20H35BN2O4Si
reactant | potassium carbonate | 6.14 mmoles, 0.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 0.31 mmoles, 250 mg | ClCCl | CH2Cl2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | triisopropylsilyl 4-[3′-(1-{[(cyanomethyl)amino]carbonyl}-3-methylbutoxy)[1,1′-biphenyl]-4-yl]-1-piperazinecarboxylate | C(#N)CNC(=O)C(CC(C)C)OC=1C=C(C=CC1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)O[Si](C(C)C)(C(C)C)C(C)C | C34H50N4O4Si
